US04087524
Substituting 17β,19-dihydroxy-1α,7α-dimethyl-4-androsten-3-one dipropionate and 17β,19-dihydroxy-1α,6α-dimethyl-4-androsten-3-one dipropionate in the above procedure results in the preparation of 17β,19-dihydroxy-1α,17α-dimethyl-4-androsten-3-one and 17β,19-dihydroxy-1α,6α-dimethyl-4-androsten-3-one, respectively.

reactant | 17β,19-dihydroxy-1α,7α-dimethyl-4-androsten-3-one dipropionate | C(CC)(=O)O.C(CC)(=O)O.O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1[C@@H](CC3=CC(C[C@@H]([C@]3(CO)[C@H]1CC2)C)=O)C
reactant | 17β,19-dihydroxy-1α,6α-dimethyl-4-androsten-3-one dipropionate | C(CC)(=O)O.C(CC)(=O)O.O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1C[C@@H](C3=CC(C[C@@H]([C@]3(CO)[C@H]1CC2)C)=O)C
product | 17β,19-dihydroxy-1α,6α-dimethyl-4-androsten-3-one | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1C[C@@H](C3=CC(C[C@@H]([C@]3(CO)[C@H]1CC2)C)=O)C | C21H32O3
